Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Avelox / ropinirole / alendronate sodium / Actonel
 
Attending: ___.
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
Dr. ___ is a ___ year old female, with a past medical history 
___ disease, atrial fibrillation, hypertention, and 
hyperlipidemia who presented with acute onset of dizziness. She 
has had about 2 other prior episodes in the past year that 
self-resolved or improved with Epley maneuver, but this has been 
the worst. This morning, when she woke up around 6AM to use the 
bathroom, became acutely diaphoretic and nauseated. She 
experienced ___ seconds of severe room-spinning vertigo 
(cannot recall to which direction). The vertigo improved after 
lying back down and closing her eyes, but the nausea persisted 
for ___ minutes. Following this, she reports similar provoked 
episodes of vertigo and nausea anytime she would attempt to get 
up or turn her head to the right and had several episodes of 
vomiting. She denies any associated CP, heart racing, tinnitus 
or hearing difficulty, blurring vision or double vision. 

She initially presented to ___ and was given 
meclizine and Zofran, which she feels had very little effect on 
her symptoms. She was transferred to ___ since her symptoms 
failed to improve.

In the ED, vitals were stable and labs were unremarkable. CT and 
CTA head were unremarkable. EKG was unremarkable. Neurology saw 
her and thought this was most consistent with BPPV, but 
recommended MRI to rule out stroke. Patient was given IV Ativan 
0.5 and 1.0 mg. When she arrived on medicine floor she was very 
altered from Ativan.   

Overnight, she states that she felt some instability when 
walking to the bathroom, feeling like she was falling to the 
right. This morning, she states that all her symptoms had 
resolved. Denies nausea, dizziness, or vomiting. States that she 
is not on aspirin daily for prevention, but does take aspirin 
about 3 times a week for aches/pains.  

 
Past Medical History:
- ___ disease, follow with Dr. ___ in ___ (R 
hand rest tremor)  
- vocal cord dystonia  
- Botox injections at Mass Eye and Ear  
- Breast Ca in ___  
- osteoporosis  
- pAfib  
- converted w Lopressor in ___  
- ED visit for Afib in ___  
- 17hr Holter monitoring in ___ captured no Afib  
- HLD  
- HTN  
 
Social History:
___
Family History:
Mother - rest tremors, decreased from CVA at age ___  
Father - essential tremor with hand tremors  
Paternal Aunt - tremor, no underlying diagnosis  
PGGF - essential tremor  
No ___ disease.  
No ___ of CVA or MI at age <___  

 
Physical Exam:
On admission:
=============
Vital Signs: 88 131/64 18 95%RA  
General: Lethargic but awakes for exam, oriented, no acute 
distress  
HEENT: Sclera anicteric, EOMI, PERRL, neck supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities. 
Supine log-roll test negative for nystagmus, not able to 
___ due to effort required. Whisper test negative. 
Resting tremor in the right arm.  

On discharge:
=============
Vital Signs: T 97.9, BP 114/67, HR 63, RR 18, O2 100% RA  
General: Sitting on edge of bed, in no acute distress  
HEENT: Sclera anicteric, PERRL  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact. Slight horizontal nystagmus. ___ 
strength upper/lower extremities. Right arm resting tremor. 
Increased cogwheeling of RUE compared to LUE. Biceps reflex 2+ 
bilaterally. Sensation intact bilaterally in upper and lower 
extremity.
 
Pertinent Results:
Admission labs:
===============

___ 04:45PM   GLUCOSE-128* UREA N-10 CREAT-0.5 SODIUM-135 
POTASSIUM-4.3 CHLORIDE-99 TOTAL CO2-26 ANION GAP-14
___ 04:45PM   WBC-9.2# RBC-4.53 HGB-14.3 HCT-42.0 MCV-93 
MCH-31.6 MCHC-34.0 RDW-12.0 RDWSD-41.0
___ 04:45PM   NEUTS-88.6* LYMPHS-8.1* MONOS-2.8* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-8.10* AbsLymp-0.74* AbsMono-0.26 
AbsEos-0.00* AbsBaso-0.02
___ 04:45PM   PLT COUNT-213
___ 04:45PM   ALT(SGPT)-16 AST(SGOT)-24 ALK PHOS-82 TOT 
BILI-0.2
___ 04:45PM   cTropnT-<0.01
___ 04:45PM   ALBUMIN-4.7 CALCIUM-9.4 PHOSPHATE-2.4* 
MAGNESIUM-2.0
___ 04:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG

Imaging:
========
- MRI ___: 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction. The ventricles and sulci are normal 
in caliber and 
configuration. 
  
There are few scattered foci of T2/FLAIR hyperintensity in the 
subcortical and periventricular white matter, nonspecific, 
likely secondary to small vessel ischemic disease. 
  
The orbits are unremarkable.  The visualized paranasal sinuses 
and mastoid air cells are clear.  Intracranial flow voids are 
maintained. 
  
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Early changes of small vessel disease. 

- CTA head ___: 
Normal head and neck CTA.

- Chest X-ray ___: 
Mild elevation of the right hemidiaphragm persists.  No focal 
consolidation is seen. There is no pleural effusion or 
pneumothorax.  No pulmonary edema is seen. The cardiac and 
mediastinal silhouettes are stable, with the aorta tortuous.  
Thoracolumbar scoliosis is again seen. 

Discharge labs:
=============
___ 04:45PM   GLUCOSE-128* UREA N-10 CREAT-0.5 SODIUM-135 
POTASSIUM-4.3 CHLORIDE-99 TOTAL CO2-26 ANION GAP-14
___ 04:45PM   estGFR-Using this
___ 04:45PM   ALT(SGPT)-16 AST(SGOT)-24 ALK PHOS-82 TOT 
BILI-0.2
___ 04:45PM   cTropnT-<0.01
___ 04:45PM   ALBUMIN-4.7 CALCIUM-9.4 PHOSPHATE-2.4* 
MAGNESIUM-2.0
___ 04:45PM URINE  HOURS-RANDOM
___ 04:45PM URINE  UHOLD-HOLD
___ 04:45PM   WBC-9.2# RBC-4.53 HGB-14.3 HCT-42.0 MCV-93 
MCH-31.6 MCHC-34.0 RDW-12.0 RDWSD-41.0
___ 04:45PM   NEUTS-88.6* LYMPHS-8.1* MONOS-2.8* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-8.10* AbsLymp-0.74* AbsMono-0.26 
AbsEos-0.00* AbsBaso-0.02
___ 04:45PM   PLT COUNT-213
___ 04:45PM URINE  COLOR-Straw APPEAR-Clear SP ___r. ___ is a ___ yo woman w PMHx significant for ___ 
disease, pAfib, HTN/HLD who presents to ___ ED with acute 
onset of dizziness that was worse than prior episodes of BPPV. 
She was evaluated by neurology who believed her symptoms were 
most likely BPPV and TIA/infarct seemed remote, but did not feel 
central neurologic process could be excluded entirely - 
especially given her history of HTN/HLD and pAFib. They 
therefore recommended inpatient admission for MRI. CTA and MRI 
were both negative for acute process. She was symptomatically 
treated with meclizine and Zofran and Ativan. The Ativan made 
her very altered initially but did help her symptoms. On HD2, 
however, she had cleared from Ativan intoxication and her 
symptoms had completely resolved. 

Transitional Issues:
====================
- would recommend avoiding Ativan in the future as patient was 
altered with medicine 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Denosumab (Prolia) 60 mg SC Q6MONTHS 
2. Rasagiline 1 mg PO DAILY 
3. Diltiazem Extended-Release 120 mg PO TID 

 
Discharge Medications:
1. Diltiazem Extended-Release 120 mg PO TID 
2. Rasagiline 1 mg PO DAILY 
3. Denosumab (Prolia) 60 mg SC Q6MONTHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Vertigo likely secondary to BPPV
Secondary diagnosis:
___ disease 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___ was a pleasure taking care of you at ___.

Why was I here?
- You had dizziness that was worse than prior.
What was done while I was here?
- You were seen by the neurologist. 
- You had an MRI and CT scan done, which were both reassuring. 
- It seems that your symptoms were due to BPPV.

What should I do when I get home?
- Take all your medicines as prescribed. 
- Please follow with your primary doctors. 
 
Followup Instructions:
___